US08497368B2
((E)-N′-Acetyl-1-(quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazine-6-carbohydrazonamide (Example 64)
To a solution of 1-(quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazine-6-carbohydrazonamide (25 mg, 0.078 mmol) in DMSO (1 mL) and DCM (2.0 mL), was added pyridine (6.19 mg, 0.078 mmol) and acetic anhydride (10.39 mg, 0.102 mmol). After stirring overnight, the reaction mixture was filtered. The solid was washed with EtOH, H2O and EtOH to give 19.9 mg of title compound in 67% yield. 1H-NMR (400 MHz, DMSO-d6) δ ppm 9.48 (d, 1H), 8.88 (d, 1H), 8.34 (d, 1H), 8.05 (s, 1H), 8.01 (d, 1H), 7.86 (d, 1H), 7.53 (dd, 1H), 6.20 (s, 2H), 2.24 (s, 1H), 2.00 (s, 1H). LCMS (method B): [MH]+=362, tR=1.60 min.

reactant | 1-(quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazine-6-carbohydrazonamide | 0.078 mmol, 25 mg | N1=CC=CC2=CC(=CC=C12)CN1N=NC=2C1=NC(=CN2)C(N)=NN | C15H13N9
reactant | pyridine | 0.078 mmol, 6.19 mg | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 0.102 mmol, 10.39 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
solvent | DCM | 2.0 mL | C(Cl)Cl | CH2Cl2
product | (E)-N′-Acetyl-1-(quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazine-6-carbohydrazonamide | 19.9 mg, 67% yield | C(C)(=O)N\N=C(\N)/C1=CN=C2C(=N1)N(N=N2)CC=2C=C1C=CC=NC1=CC2 | C17H15N9O
